US07674789B2
3-(8-(2,6-difluorophenyl)-2-{[2-(dimethylamino)ethyl]amino}-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl)-N-1,3-thiazol-2-ylbenzamide
To the solution of 3-(8-(2,6-difluorophenyl)-2-{[2-(dimethylamino)ethyl]-amino}-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl)benzoic acid (15 mg, 0.03 mmol) in CH2Cl2 (3 mL) were added 1,3-thiazol-2-amine (3.5 mg, 0.035 mmol), HATU (13 mg, 0.034 mmol) and diisopropyl ethyl amine (0.05 mL, 0.3 mmol). The reaction mixture was stirred over night. The reaction mixture was diluted with CH2Cl2 (5 mL) and water (5 mL) and shaked. The layers were separated and the organic layer was washed with brine (8 mL), dried over Na2SO4, filtered and concentrated. CombiFlash chromatography (mobile phase DCM/DCM[90]+MeOH[7]+NH4OH[3]) then provided the title compound as a white solid (7 mg, 40%). LC-MS m/z 551 (M+H)+; 1H-NMR (MeOD) δ 2.22 (s, 6H), 2.46 (m, 2H), 3.16 (m, 2H), 4.51 (s, 2H), 7.17 (m, 3H), 7.51 (m, 2H), 7.69 (m, 1H), 7.83 (d, 1H), 8.16 (d, 1H), 8.23 (s, 1H).

reactant | 3-(8-(2,6-difluorophenyl)-2-{[2-(dimethylamino)ethyl]-amino}-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl)benzoic acid | 0.03 mmol, 15 mg | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)O)C=CC2)NCCN(C)C)=O | C23H22F2N6O3
reactant | 1,3-thiazol-2-amine | 0.035 mmol, 3.5 mg | S1C(=NC=C1)N | C3H4N2S
reactant | HATU | 0.034 mmol, 13 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropyl ethyl amine | 0.3 mmol, 0.05 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | water | 5 mL | O | H2O
product | 3-(8-(2,6-difluorophenyl)-2-{[2-(dimethylamino)ethyl]amino}-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl)-N-1,3-thiazol-2-ylbenzamide | 7 mg, 40% | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)NC=1SC=CN1)C=CC2)NCCN(C)C)=O | C26H24F2N8O2S
